Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])[H:9].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[H:9],-0.32794842385
[H:1].[O:2][C@@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.729192794599999
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15],-1.86292168518
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9]>>[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9].[H:1][C:2],6.27981062989
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-0.529776662801
[C:5]([H:6])[H:7].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-7.8240293198399975
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9],2.4170029132
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.13423687152
[C:9][H:10].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-10.6065296265
[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.89587274089
[O:1]([C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11])[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-2.87041678741
[C:8][O:9][H:10].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10],-4.20627535098
[H:11].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.6150003056
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8].[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-1.93673552072
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.05656589305
[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.645189470330002
[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-4.17418325186
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5](=[O:6])=[C:7]([H:8])[C:9]([H:10])[H:11],0.684147489899
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],4.1709222003800015
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-5.149715824509999
[H:1][C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],2.49943549825
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-1.99389930539
[H:1]/[C:2]([C:3]([H:4])([H:5])[O:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])([H:11])[H:12],-0.00149363499986
[C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.22690011477
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])/[C:6]([H:7])=[C:8](\[H:9])[C:10][O:11][H:12].[H:5],1.23081249992
[C:1]=[C:2]([C:3](=[C:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[C:3](#[C:4])[C:5]([H:6])([H:7])[H:8],2.63207331177
[C:10]([H:11])=[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],-1.94806294622
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:5].[O:1]=[C:2][C:3]([H:4])=[C:6]=[O:7],1.5762187523
[C:2]([H:3])=[C:4]([H:5])[O:6][C:7][H:8].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][H:8],-5.80437866212
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10],4.23732087297
